US08026257B2
(±)-1-(5-(Trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-7-yl)ethyl 2,2,2-trichloroacetimidate.
Diazabicycloundecene (33.0 mg, 0.217 mmol) was added to a solution of (±)-1-(5-(trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-7-yl)ethanol (390 mg, 1.09 mmol) in diethyl ether (10 ml) and stirred for 10 min. Trichloroacetonitrile (235 mg, 1.627 mmol) was then added and the reaction stirred 16 h at ambient temperature. The solvent was evaporated and the residue purified by chromatography on silica gel with a gradient of ethyl acetate/hexanes from 5% to 40% to give 290 mg (53%) as a brown oil. 1H-NMR (CDCl3, 400 MHz) δ 8.23 (s, 1H), 7.82 (s, 1H), 7.69 (s, 1H), 7.17 (d, J=33 Hz, 1H), 6.76 (q, J=6.5 Hz, 1H), 6.57 (d, J=3.2 Hz, 1H), 6.19 (d, J=11.5 Hz, 1H), 5.30 (d, J=11.5 Hz, 1H), 3.48 (dd, J=9.0, 8.0 Hz, 2H), 1.75 (d, J=6.4 Hz, 3H), 0.92 (m, 2H), −0.07 (s, 9H); LC/MS (HPLC method 4): tR=4.31 min, 342.16(M-OC2NHCl3)+.

reactant | Diazabicycloundecene | 0.217 mmol, 33.0 mg | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
reactant | (±)-1-(5-(trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-7-yl)ethanol | 1.09 mmol, 390 mg | FC(C=1C=C2C=CN(C2=C(C1)C(C)O)COCC[Si](C)(C)C)(F)F | C17H24F3NO2Si
reactant | Trichloroacetonitrile | 1.627 mmol, 235 mg | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | (±)-1-(5-(Trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-7-yl)ethyl 2,2,2-trichloroacetimidate | ClC(C(OC(C)C=1C=C(C=C2C=CN(C12)COCC[Si](C)(C)C)C(F)(F)F)=N)(Cl)Cl | C19H24Cl3F3N2O2Si
